US06090900
Ethylene/Vinylethylene Carbonate Copolymer
A 300 mL flame dried round bottom Schlenk flask was charged with α-diimine Pd(II) catalyst X (100 mg) in an argon filled glove box. Upon removal from the glove box, the flask was evacuated and backfilled with ethylene. The catalyst was dissolved in CH2Cl2 (50 mL) and immediately treated with vinylethylene carbonate (12 mL). The resulting orange solution was stirred at 23° C. under an ethylene atmosphere (1 atm) overnight. A small amount of polymer had precipitated out of solution. The polymerization was quenched with MeOH and filtered on a glass frit. The polymer was collected and dried in vacuo at 60° C. for 3 days to afford a tacky solid (800 mg). 1H NMR was consistent with a copolymer containing approximately 99.5 mole % ethylene and 0.5 mole % vinylethylene carbonate monomer units. IR (CH2Cl2 film) 1818 cm-1 ; Mn 40,000 g /mol ; Mw 81,000 g /mol ; DSC Tg -62° C., Tm -30° C.

reactant | ethylene | C=C | C2H4
reactant | vinylethylene carbonate | C1(OC(CO1)C=C)=O | C5H6O3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Ethylene Vinylethylene Carbonate | C=C.C1(OC(CO1)C=C)=O | InChI=1S/C5H6O3.C2H4/c1-2-4-3-7-5(6)8-4;1-2/h2,4H,1,3H2;1-2H2
